US07625886B2
7h) (R)-1-carboxy-2-(2-methoxy-7-methyl-1H-benzimidazol-5-yl)-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
A solution of 0.10 g (4.18 mmol) LiOH in 6 mL water was added to a solution of 0.98 g (1.83 mmol) (R)-1-methoxycarbonyl-2-(2-methoxy-7-methyl-1H-benzimidazol-5-yl)-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate in 18 mL THF and the reaction solution was stirred overnight at RT. 1.05 mL of 4 M HCl was added and the THF was eliminated i.vac. The mixture was decanted to separate off the oily residue, this was dissolved in DCM/MeOH and the organic phase was dried on Na2SO4. After the desiccant and solvent had been eliminated the desired product was obtained.

reactant | LiOH | 4.18 mmol, 0.10 g | [Li+].[OH-]
reactant | (R)-1-methoxycarbonyl-2-(2-methoxy-7-methyl-1H-benzimidazol-5-yl)-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 1.83 mmol, 0.98 g | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@H](CC1=CC3=C(NC(=N3)OC)C(=C1)C)C(=O)OC)C=CC=C2 | C28H33N5O6
reactant | HCl | 4 M, 1.05 mL | Cl | ClH
solvent | water | 6 mL | O | H2O
solvent | THF | 18 mL | C1CCOC1 | C4H8O
product | (R)-1-carboxy-2-(2-methoxy-7-methyl-1H-benzimidazol-5-yl)-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@H](CC1=CC3=C(NC(=N3)OC)C(=C1)C)C(=O)O)C=CC=C2 | C27H31N5O6
